US08168729B2
161.42 g of DMAC, 19.2 g (0.1 mol) of TMAN, 18.6 g (0.10 mol) of BP, 35 g (0.14 mol) of MDI, 10.7 g (0.06 mol as an isocyanate group) of HDI-N, and 77.92 g (0.04 mol as a hydroxyl group) of HGPD-C (polycarbonate diol obtained from 1,6-hexanediol and pentanediol: hydroxyl equivalent: 57.6 KOH-mg/g) were put into a flask provided with a stirrer, a thermometer, and a condenser. Then, the temperature was raised to 140° C. with stirring while paying attention to heat generation, and the reaction was conducted at this temperature for 5 hours. The reaction was allowed to progress while generating carbon dioxide gas, and a transparent and brown liquid was obtained. Thereby, a solution of the polyimide resin (C-6) (resin content: 48.6%) having the viscosity of 40 Pa·s at 25° C. was obtained.

reactant | 1,6-hexanediol | C(CCCCCO)O | C6H14O2
reactant | pentanediol | C(CCCC)(O)O | C5H12O2
reactant | KOH | [OH-].[K+]
reactant | DMAC | 161.42 g | CC(=O)N(C)C | C4H9NO
product | TMAN | 0.1 mol, 19.2 g | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
